US07485634B2
2-Methyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid n-propyl ester was prepared in the manner described in Example 1A using α-methyl tryptamine and n-propyl 3-bromopyruvate; MS (ESI): 285 (MH+).

reactant | α-methyl tryptamine | CC(N)CC1=CNC2=CC=CC=C12 | C11H14N2
reactant | n-propyl 3-bromopyruvate | BrCC(C(=O)OCCC)=O | C6H9BrO3
product | 2-Methyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid n-propyl ester | C(CC)OC(=O)C1=CNC(CC2=C1NC=1C=CC=CC21)C | C17H20N2O2
